US07022699B2
Step A. 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester
4-Bromo benzoic acid methyl ester (20.0 g, 93.0 mmol), bis(pinacolato)diboron (26.0 g, 102 mmol), potassium acetate (27.4 g, 279 mmol) and dichloro[1,1′-bis(diphenylphosphino) ferrocene]palladium (II) dichloromethane adduct (2.28 g, 2.79 mmol) were combined in anhydrous dimethyl sulfoxide (465 mL) and heated to 80° C. for 18 hours. The reaction mixture was cooled to room temperature, diluted with diethyl ether and filtered through silica gel. The filtrate was washed with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated to afford the title compound (22 g) as an oil, which was recrystallized from pentane (−20° C.), m.p. 79° C.

reactant | 4-Bromo benzoic acid methyl ester | 93.0 mmol, 20.0 g | COC(C1=CC=C(C=C1)Br)=O | C8H7BrO2
reactant | bis(pinacolato)diboron | 102 mmol, 26.0 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 279 mmol, 27.4 g | C(C)(=O)[O-].[K+]
solvent | dimethyl sulfoxide | 465 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | dichloro[1,1′-bis(diphenylphosphino) ferrocene]palladium (II) dichloromethane adduct | 2.79 mmol, 2.28 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester | 22 g | COC(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C14H19BO4
